US03995056
A mixture of 30 g of magnesium and 450 ml of ether was refluxed and then a solution of 191 g of p-chlorobromobenzene in 600 ml of ether was slowly added and reflux was continued for 11/2 hours after the addition. The mixture was cooled to 20° C to obtain an ether solution of 0.7N p-chlorophenyl magnesium bromide. After cooling 800 ml of the solution to 10° C, 55.7 g of cadmium chloride were added thereto and the ether was distilled off while adding benzene as a replacement. After obtaining 1 1 of distillate, it was cooled to 8° C and a solution of 110 g of 2-methyl-3-nitro-benzoyl chloride in 550 ml of benzene was added thereto. The mixture stood for 18 hours and was then added to a mixture of 3,650 ml of icewater and 134 ml of hydrochloric acid. The mixture was filtered and the benzene phase was decanted. The aqueous phase was extracted with benzene and the combined benzene phases were washed with N hydrochloric acid, with water, with saturated aqueous sodium bicarbonate and finally with water. The organic phase was dried over sodium sulfate and evaporated to dryness under reduced pressure to obtain 147.3 g of 2-methyl-3-nitro-4'-chloro-benzophenone which was used as is in the next step.

reactant | 2-methyl-3-nitro-benzoyl chloride | 110 g | CC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C8H6ClNO3
reactant | hydrochloric acid | 134 ml | Cl | ClH
solvent | benzene | 550 ml | C1=CC=CC=C1 | C6H6
catalyst | cadmium chloride | 55.7 g | [Cl-].[Cd+2].[Cl-]
product | 2-methyl-3-nitro-4'-chloro-benzophenone | 147.3 g | CC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC=C1[N+](=O)[O-] | C14H10ClNO3
